US05130119
(c) 2-[N-(4-Fluoro-3-trifluoromethylphenyl)sulfamoyl] acetic acid-[2-hydroxy-2-(2,2-dimethyl-1,3-dioxolan-4-yl)-ethylamide]
Analogously to the instructions for Example 9(a), 2.21 g (7 mmol) of 2-[N-(4-fluoro-3-trifluoromethyl-phenyl)sulfamoyl] acetic acid in dioxane is reacted with 1.13 g (7 mmol) of 2-hydroxy-2-(2,2-dimethyl-1,3-dioxolan-4-yl)-ethylamine for about 1 hour at 90° C. After concentration by evaporation and crystallization from ethanol/ether, 2.87 g=92.3% of the theoretical yield is obtained as a crystallizate. Melting point 144°-146° C.

reactant | 2-[N-(4-fluoro-3-trifluoromethyl-phenyl)sulfamoyl] acetic acid | 7 mmol, 2.21 g | FC1=C(C=C(C=C1)NS(=O)(=O)CC(=O)O)C(F)(F)F | C9H7F4NO4S
reactant | 2-hydroxy-2-(2,2-dimethyl-1,3-dioxolan-4-yl)-ethylamine | 7 mmol, 1.13 g | OC(CN)C1OC(OC1)(C)C | C7H15NO3
solvent | dioxane | O1CCOCC1 | C4H8O2
product | 2-[N-(4-Fluoro-3-trifluoromethylphenyl)sulfamoyl] acetic acid-[2-hydroxy-2-(2,2-dimethyl-1,3-dioxolan-4-yl)-ethylamide] | OC(CNC(CS(NC1=CC(=C(C=C1)F)C(F)(F)F)(=O)=O)=O)C1OC(OC1)(C)C | C16H20F4N2O6S
